Test OpAmp ACDC

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.include ./AMP_NMCF_Pin_3_HSPICE_130.txt

.param mc_mm_switch=0
.param mc_pr_switch=0
*.temp
.include ../sky130_pdk/libs.tech/ngspice/corners/tt.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include ../sky130_pdk/libs.tech/ngspice/corners/tt/specialized_cells.spice

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =100p 
.include ./AMP_NMCF_vars.spice

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc opin 0 'supply_voltage*VCM_ratio'
Vin signal_in 0 dc 'supply_voltage*VCM_ratio' ac 1 sin('supply_voltage*VCM_ratio' 100m 500)

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

* Circuit List:
* Leung_NMCNR_Pin_3
* Leung_NMCF_Pin_3
* Leung_DFCFC1_Pin_3
* Leung_DFCFC2_Pin_3

* XOP gnda vdda vinn vinp vout
*        |  |     |     |   |
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |      Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCF_Pin_3
*************************************** 
*    ADM TB 
Ib Ib gnda DC='I_Ib'
x1 vss vdd opout_dc opin opout Ib Leung_NMCF_Pin_3
Cload1 opout 0 'PARAM_CLOAD'

*   ACM TB    
vcmdc cm0 0 'supply_voltage*VCM_ratio'
vcmac1 cm1 cm0 0 ac=1
vcmac2 cm2 cm3 0 ac=1
Ib2 Ib2 gnda DC='I_Ib'
x2 vss vdd cm2 cm1 cm3 Ib2 Leung_NMCF_Pin_3
Cload2 cm3 0 'PARAM_CLOAD'

* PSRR   TB   
VGNDApsrr gndpsrr 0 0 AC=1
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
Ib3 Ib3 gnda DC='I_Ib'
x3 vss vddpsrr ppsr1 opin ppsr1 Ib3 Leung_NMCF_Pin_3
Cload3 ppsr1 0 'PARAM_CLOAD'

Ib4 Ib4 gnda DC='I_Ib'
x4 gndpsrr vdd npsr1 opin npsr1 Ib4 Leung_NMCF_Pin_3
Cload4 npsr1 0 'PARAM_CLOAD'

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
Ib5 Ib5 gnda DC='I_Ib'
x5 vss vdddc vout6 opin vout6 Ib5 Leung_NMCF_Pin_3
Cload5 vout6 0 'PARAM_CLOAD'

.control
save all
.options savecurrents 
set filetype=ascii
set units=degrees

DC temp -40 125 1
* TC meas   
meas dc maxval MAX V(vout6) from=-40 to=125
meas dc minval MIN V(vout6) from=-40 to=125
meas dc avgval AVG V(vout6) from=-40 to=125
meas dc ppavl  PP V(vout6) from=-40 to=125
let TC = ppavl/avgval/165
* Power meas   
meas dc Ivdd25 FIND I(VVDDDC) AT=25
let Power_ = -1 * Ivdd25 * 1.8
let Power = Power_ * 1e3
*   Vos.meas   
meas dc vout25 FIND V(vout6) AT=25
let vos25 = vout25 - 1.8 * 0.25
wrdata AMP_NMCF_ACDC_DC TC Power vos25
plot v(vout6)

ac dec 10 0.1 1G
meas ac cmrrdc find vdb(cm3) at = 0.1 
meas ac dcgain_ find vdb(opout) at = 0.1
let dcgain = abs(dcgain_)
meas ac gain_bandwidth_product_ when vdb(opout)=0
let gbp = gain_bandwidth_product_*1e-4
meas ac phase_margin find vp(opout) when vdb(opout)=0
meas ac DCPSRp find vdb(ppsr1) at = 0.1
meas ac DCPSRn find vdb(npsr1) at = 0.1
wrdata AMP_NMCF_ACDC_AC cmrrdc DCPSRp DCPSRn dcgain_ 
wrdata AMP_NMCF_ACDC_GBW_PM gain_bandwidth_product_ phase_margin 
plot vdb(opout) vdb(cm3) vdb(ppsr1) vdb(npsr1) vp(opout)

* OP
op
.include ./AMP_NMCF_dev_params.spice
.endc

.end
